US08895744B2
(E)-3-chloro-6-(2′-(4-methoxyphenyl)ethenyl)-9H-pyrido[2,3-b]indole (R350)
To a Solution of (E)-9-Benzenesulfonyl-3-Chloro-6-(2′-(4-methoxyphenyl)ethenyl)-9H-pyrido[2,3-b]indole (127 mg, 0.25 mmol, 1 equiv.) in anhydrous THF (11 ml) under Argon, TBAF 1M in THF (1.26 ml, 1.26 mmol, 5 equiv.) is added dropwise. The reaction is carried out at reflux for 4 hours and then concentrated under reduced pressure. The crude product is washed with MeOH and then filtered. The product R350 is obtained as a white solid (17 mg, 0.04 mmol) in 21% yield. 1H NMR (300 MHz, DMSO d6) δ 12.05 (br s, 1H), 8.68 (d, 1H, J=2.1 Hz), 8.42 (d, 1H, J=2.3 Hz), 8.41 (s, 1H), 7.74 (d, 1H, J=8.3 Hz), 7.55 (d, 2H, J=8.5 Hz), 7.50 (d, J=8.3 Hz), 7.21 (d, 2H, J=1.5 Hz), 6.97 (d, 2H, J=8.5 Hz), 3.78 (s, 3H).

reactant | (E)-9-Benzenesulfonyl-3-Chloro-6-(2′-(4-methoxyphenyl)ethenyl)-9H-pyrido[2,3-b]indole | 0.25 mmol, 127 mg, 1 equiv. | C1(=CC=CC=C1)S(=O)(=O)N1C2=C(C3=CC(=CC=C13)\C=C\C1=CC=C(C=C1)OC)C=C(C=N2)Cl | C26H19ClN2O3S
reactant | TBAF | 1M | CCCC[N+](CCCC)(CCCC)CCCC.[F-]
solvent | THF | 11 ml | C1CCOC1 | C4H8O
solvent | THF | 1.26 mmol, 1.26 ml, 5 equiv. | C1CCOC1 | C4H8O
product | (E)-3-chloro-6-(2′-(4-methoxyphenyl)ethenyl)-9H-pyrido[2,3-b]indole | 0.04 mmol, 17 mg, 21% yield | ClC1=CC2=C(NC3=CC=C(C=C23)\C=C\C2=CC=C(C=C2)OC)N=C1 | C20H15ClN2O
